US08071584B2
5-{5-[(diethylamino)methyl]-3-thienyl}-3-(1,1-dioxidotetrahydro-2H-thiopyran-4-yl)-1H-indole-7-carboxamide
To 5-bromo-3-(1,1-dioxidotetrahydro-2H-thiopyran-4-yl)-1H-indole-7-carboxamide (400 mg, 1.08 mmol) in dioxane and water (4 mL/1 mL) was added 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-2-thiophenecarbaldehyde (462 mg, 1.94 mmol), Pd(PPh3)4 (100 mg) and K2CO3 (447 mg, 3.24 mmol). The reaction mixture was heated at 150° C. for 20 minutes by microwave irradiation. The organic phase was concentrated and redissolved in DMSO (10 mL). The resulting solution was split to eight. NaBH3CN (30 mg), ZnCl2 (30 mg) and N-ethylethanamine (50 mg) were added. The mixture was heated to 100° C. for 30 minutes which was then filtered and purified by HPLC with TFA to afford the title compound (16 mg).

reactant | 5-bromo-3-(1,1-dioxidotetrahydro-2H-thiopyran-4-yl)-1H-indole-7-carboxamide | 1.08 mmol, 400 mg | BrC=1C=C2C(=CNC2=C(C1)C(=O)N)C1CCS(CC1)(=O)=O | C14H15BrN2O3S
reactant | 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-2-thiophenecarbaldehyde | 1.94 mmol, 462 mg | CC1(OB(OC1(C)C)C=1C=C(SC1)C=O)C | C11H15BO3S
reactant | K2CO3 | 3.24 mmol, 447 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | dioxane | O1CCOCC1 | C4H8O2
solvent | water | 4 mL | O | H2O
catalyst | Pd(PPh3)4 | 100 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 5-{5-[(diethylamino)methyl]-3-thienyl}-3-(1,1-dioxidotetrahydro-2H-thiopyran-4-yl)-1H-indole-7-carboxamide | 16 mg | C(C)N(CC)CC1=CC(=CS1)C=1C=C2C(=CNC2=C(C1)C(=O)N)C1CCS(CC1)(=O)=O | C23H29N3O3S2
